US05741811
Synthesis of 5-(hydroxymethyl-5'-formyl-2,2'-bithiophene (NSC code #647073)
Phosphorus oxychloride ("POCl3 ") (1 ml) was added into dimethyl formamide (20 ml) slowly under nitrogen gas atmosphere in ice bath and stirred for 1 hour. The dimethyl formamide solution (5 ml) of 5-hydroxymethyl-2,2'-bithiophene (0.5 g) was dropped in slowly. The mixture was stirred for half an hour at room temperature, then the temperature was raised to 50° C. and was further stirred for 3 hours. The reaction solution was poured into potassium carbonate ice water solution. Then the solution was extracted with 100 ml of ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residual solid was purified by column chromatography, eluted with ethyl acetate/n-hexane (3/7). Light yellowish product was recrystallized from ethyl acetate/n-hexane mixture. The melting point of the product was 123°-124° C. The yield was 85%.

reactant | Phosphorus oxychloride | 1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-hydroxymethyl-2,2'-bithiophene | 0.5 g | OCC1=CC=C(S1)C=1SC=CC1 | C9H8OS2
reactant | dimethyl formamide | 5 ml | CN(C=O)C | C3H7NO
reactant | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
product | hydroxymethyl-5'-formyl-2,2'-bithiophene | yield was 85% | OCC1=C(SC=C1)C=1SC(=CC1)C=O | C10H8O2S2
